US04493843
A stirred solution of ethyl 3-amino-2-methylbenzoate (17.9 g) in chloroform (150 ml), containing triethylamine (15 ml), was treated with a solution of n-hexadecanoyl chloride (28 g) in chloroform (50 ml), during 30 minutes. The temperature of the reaction mixture was maintained at 0°-10° C. during the addition by ice cooling. The mixture was then refluxed for 90 minutes, washed with water (2×150 ml) and was dried over magnesium sulphate. The solvent was removed in vacuo to give a white solid, which was recrystallised from ethanol. The solid was dissolved in warm ethanol (500 ml) and the solution was treated with sodium hydroxide (10 g) in water (50 ml). The mixture was then refluxed for one hour and was poured onto a mixture of crushed ice and dilute hydrochloric acid (150 ml of strength 2N). The solid was collected and was recrystallised from ethanol (1000 ml) to give 3-(n-hexadecanamido)-2-methylbenzoic acid (28 g), in the form of a white solid, m.p. 163°-165° C.

reactant | ethyl 3-amino-2-methylbenzoate | 17.9 g | NC=1C(=C(C(=O)OCC)C=CC1)C | C10H13NO2
reactant | triethylamine | 15 ml | C(C)N(CC)CC | C6H15N
reactant | n-hexadecanoyl chloride | 28 g | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(n-hexadecanamido)-2-methylbenzoic acid | 28 g | C(CCCCCCCCCCCCCCC)(=O)NC=1C(=C(C(=O)O)C=CC1)C | C24H39NO3
